US07750154B2
A stirred mixture of 2-amino-5-methoxybenzoic acid (10 g), trimethyl orthoformate (13.1 ml), and acetic acid (0.34 ml) in toluene (240 ml) was heated under reflux for 6 hours. 3-Amino-N-cyclopropyl-4-methylbenzamide (10.23 g) was added to the reaction mixture and stirring continued at reflux for 16 hours. The reaction mixture was allowed to cool and then was diluted with ethyl acetate. The organic solution was then washed with 1N HCl solution, 2N NaOH solution (×2), brine, dried (magnesium sulfate), and concentrated to a cream coloured foam/solid. Recrystallisation from ethyl acetate gave N-cyclopropyl-3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide (AZ12239719) (11.33 g) as a white solid; NMR Spectrum: (DMSOd6) 0.62 (m, 2H), 0.75 (m, 2H), 2.19 (s, 3H), 2.90 (m, 1H), 3.95 (s, 3H), 7.56 (m, 2H), 7.63 (s, 1H), 7.78 (d, 1H), 7.89 (s, 1H), 7.95 (d, 1H), 8.23 (s, 1H), 8.48 (d, 1H); Mass Spectrum: M+H+ 350. B) To a solution of N-Cyclopropyl-3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide (4.62 g) in methylene chloride (90 ml) was added 1M boron tribromide in methylene chloride (53 ml) and stirred for 20 hours. The reaction was quenched with water and then diluted with 2N NaOH solution until the solid dissolved. The aqueous layer was washed with methylene chloride (2×) and then acidified to pH 1 with 2N HCl solution and extracted with ethyl acetate (3×). The combined organic extracts were concentrated and the solid was dried by azeotropic removal of water using toluene to yield N-cyclopropyl-3-(6-hydroxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide (AZ12266450) (3.06 g) as a white solid; NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.70 (m, 2H), 2.12 (s, 3H), 2.85 (m, 1H), 7.35 (d, 1H), 7.50 (s, 1H), 7.52 (d, 1H), 7.66 (d, 1H), 7.82 (s, 1H), 7.90 (d, 1H), 8.11 (s, 1H), 8.42 (d, 1H), 10.20 (broad s, 1H); Mass Spectrum: M+H+ 336.

reactant | N-Cyclopropyl-3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide | 4.62 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OC)=O | C20H19N3O3
reactant | boron tribromide | 1M | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 53 ml | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-3-(6-hydroxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzamide | 3.06 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)O)=O | C19H17N3O3
